US07772262B2
h) N-{4-[4-(4-Fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoyl}guanidine, hydrochloride
562 mg of N-{4-[4-(4-fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoyl}guanidine were dissolved in 20 ml of acetone and 2 ml of a 4N aqueous HCl solution added. The volatile constituents were removed in vacuo, followed by coevaporation 3 times with 20 ml of toluene each time and finally drying under medium vacuum. 587 mg of white crystals were obtained, mp 250° C. (with decomposition).

reactant | N-{4-[4-(4-fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoyl}guanidine | 562 mg | FC1=CC=C(C=C1)C1CN(S(C1)(=O)=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C | C19H21FN4O5S2
reactant | HCl | 4N | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-{4-[4-(4-Fluorophenyl)-1,1-dioxoisothiazolidin-2-yl]-5-methanesulfonyl-2-methylbenzoyl}guanidine, hydrochloride | 587 mg | Cl.FC1=CC=C(C=C1)C1CN(S(C1)(=O)=O)C1=CC(=C(C(=O)NC(=N)N)C=C1S(=O)(=O)C)C | InChI=1S/C19H21FN4O5S2.ClH/c1-11-7-16(17(30(2,26)27)8-15(11)18(25)23-19(21)22)24-9-13(10-31(24,28)29)12-3-5-14(20)6-4-12;/h3-8,13H,9-10H2,1-2H3,(H4,21,22,23,25);1H
